US08119636B2
1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one (1.5 g, 5.3 mmol) was partly dissolved in 18 ml toluene, and ethylene glycol (0.9 ml, 15.9 mmol) and then p-toluenesulfonic acid hydrate were added. The mixture was refluxed with a Dean-Stark-type trap attached for 24 hr. The reaction was cooled to room temperature and ammonium chloride solution, water and ethyl acetate were added. The layers were separated and the aqueous layer was extracted twice more with ethyl acetate. The combined ethyl acetate layers were washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration and evaporation the residue was purified by silica gel chromatography(ethyl acetate/hexanes to give 1.44 g (83%) of 2-bromo-7-(2-tert-butyl-[1,3]dioxolan-2-yl)-5H-pyrrolo[2,3-b]pyrazine.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | 5.3 mmol, 1.5 g | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | ethylene glycol | 15.9 mmol, 0.9 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-bromo-7-(2-tert-butyl-[1,3]dioxolan-2-yl)-5H-pyrrolo[2,3-b]pyrazine | 1.44 g, 83% | BrC=1N=C2C(=NC1)NC=C2C2(OCCO2)C(C)(C)C | C13H16BrN3O2
